US04607031
(5) Production of diethyl 4-(5-fluorobenzothiazol-2-yl)-benzylphosphonate
Triethyl phosphite (50.0 g) was added to 31.0 g of 2-(4-bromomethylphenyl)-5-fluorobenzothiazole, and the mixture was reacted at 150° to 160° C. for 15 minutes under a stream of nitrogen. The reaction mixture was allowed to cool to room temperature, and 100 ml of n-hexane was added. The precipitated crystals were collected by filtration and dried to give 39.0 g of crude crystals. Recrystallization from a mixture of ethyl acetate and cyclohexane gave 30.0 g of the captioned compound as colorless needle-like crystals.

reactant | Triethyl phosphite | 50.0 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | 2-(4-bromomethylphenyl)-5-fluorobenzothiazole | 31.0 g | BrCC1=CC=C(C=C1)C=1SC2=C(N1)C=C(C=C2)F | C14H9BrFNS
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | diethyl 4-(5-fluorobenzothiazol-2-yl)-benzylphosphonate | 30.0 g | FC=1C=CC2=C(N=C(S2)C2=CC=C(CP(OCC)(OCC)=O)C=C2)C1 | C18H19FNO3PS
